US07432289B2
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) in thiomorpholine (1 ml) was heated at 110° C. for 36 h in a sealed tube. The reaction was concentrated under vacuum, the residue triturated with water and purified by preparative HPLC. The solvent was evaporated under vacuum to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-thiomorpholin-4-ylisonicotinamide (25 mg). NMR; δH [2H6]—DMSO 10.30,(1H, s), 8.62,(1H, t), 8.25,(1H, d), 7.93,(2H, d), 7.70,(1H, dd), 7.64,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.22,(1H, s), 7.03,(1H, d), 3.96,(4H, m), 3.16,(2H, t), 2.62,(4H, m), 2.20,(3H, s), 1.05,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.57 min, MH+487.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | thiomorpholine | 1 ml | N1CCSCC1 | C4H9NS
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-thiomorpholin-4-ylisonicotinamide | 25 mg | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CCSCC1)=O | C28H30N4O2S
